US06586421B2
(5aS*,10bS*)-1,2,3,4,5,5a,6,10b-octahydroazepino[4,5-b]indole
A solution of 1,2,3,4,5,6-hexahydroazepino[4,5-b]indole (0.93 g, 5.0 mmol) in trifluoroacetic acid (17 mL) was cooled to 0° C., and treated with a freshly prepared solution of Na(CN)BH3 (1.57 g, 25 mmol) in MeOH (4 mL). The cooling bath was removed and the reaction mixture was stirred at room temperature for 1 h, then treated with water (75 mL), stirred for an additional 15 minutes before adjusting the pH to 14 with 45% KOH (aqueous). The resulting solution was extracted with EtOAc (3×40 mL), and the combined organic extracts were washed once with brine, dried over MgSO4, filtered, and concentrated in vacuo to give a yellow syrup. The crude product was purified by chromatography and using ethanol:ammonia:dichloromethane (15:1.5:83.5) and trituration of the resulting material gave the title compound (0.64 g) as an off-white solid: mp 102-114° C.

reactant | 1,2,3,4,5,6-hexahydroazepino[4,5-b]indole | 5.0 mmol, 0.93 g | C1CNCCC=2NC=3C=CC=CC3C21 | C12H14N2
solvent | trifluoroacetic acid | 17 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | MeOH | 4 mL | CO | CH4O
product | (5aS*,10bS*)-1,2,3,4,5,5a,6,10b-octahydroazepino[4,5-b]indole | 0.64 g | C1CNCC[C@@H]2NC=3C=CC=CC3[C@@H]21 | C12H16N2
